US08686048B2
Intermediate 2: 2-(3-methoxyphenyl)-5-nitropyridine
The title compound (612 mg) was prepared from 2-chloro-5-nitropyridine (500 mg, 3.15 mmol) and 3-methoxyphenylboronic acid (623 mg, 4.1 mmol) as a pale yellow solid. 1H-NMR (δ ppm, CDCl3, 400 MHz): 9.50 (d, J 2.6, 1H), 8.53 (dd, J 2.6, 8.8, 1H), 7.91 (d, J 8.8, 1H), 7.69-7.68 (m, 1H), 7.63 (d, J 7.8, 1H), 7.44 (t, J 7.9, 1H), 7.08-7.05 (m, 1H), 3.91 (s, 3H).

reactant | 2-chloro-5-nitropyridine | 3.15 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 3-methoxyphenylboronic acid | 4.1 mmol, 623 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 2-(3-methoxyphenyl)-5-nitropyridine | 612 mg | COC=1C=C(C=CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C12H10N2O3
